US07544702B2
A mixture of 3,6-dichloro-4-n-butylpyridazine (7.1 g, 34 mmol), ethanol (70 ml) and 25% aqueous ammonium hydroxide (70 ml) was heated to 135 deg in a sealed pressure resistant reaction vessel (Parr: achieving a pressure of 90 psi) for 24 hours. After this time the mixture was cooled and concentrated under reduced pressure. The residue was partitioned between dichloromethane (250 ml) and water (250 ml) and the aqueous layer re-extracted with dichloromethane (200 ml). The combined organic extracts were dried over magnesium sulfate and concentrated under reduced pressure to give the crude product as a mixture of isomers. Purification by flash chromotography (10-100% ethyl acetate/hexane) gave 3-amino-5-n-butyl-6-chloropyridazine as a white solid (2.3 g, 36%). 1H-NMR (CDCl3) 6.55 (1H, s, 4-H), 4.98 (2H, bs, NH2), 2.57 (2H, t, Bu), 1.58 (2H, m, Bu), 1.37 (2H, m, Bu), 0.91 (3H, t, Bu)

reactant | 3,6-dichloro-4-n-butylpyridazine | 34 mmol, 7.1 g | ClC=1N=NC(=CC1CCCC)Cl | C8H10Cl2N2
reactant | ammonium hydroxide | 70 ml | [OH-].[NH4+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-amino-5-n-butyl-6-chloropyridazine | 2.3 g, 36% | NC=1N=NC(=C(C1)CCCC)Cl | C8H12ClN3
